US04144333
cis-3-Azido-4-oxo-2-azetidinylmethyl bromide
A mixture of 0.413 g (1.40 mmol) of cis-3-azido-4-oxo-2-azetidinylmethyl tosylate, 0.434 g (5.0 mmol) of anhydrous lithium bromide and 5 ml of anhydrous dimethylformamide is heated to 100° under argon for one hour. The solution is allowed to cool to 25°, poured into ethyl acetate and extracted copiously with water. The ethyl acetate layer is dried and evaporated to give 0.270 g (94%) of the title product.

reactant | cis-3-azido-4-oxo-2-azetidinylmethyl tosylate | 1.40 mmol, 0.413 g | S(=O)(=O)(OC[C@@H]1NC([C@@H]1N=[N+]=[N-])=O)C1=CC=C(C)C=C1 | C11H12N4O4S
reactant | lithium bromide | 5.0 mmol, 0.434 g | [Br-].[Li+]
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | cis-3-Azido-4-oxo-2-azetidinylmethyl bromide | 0.270 g, 94% | N(=[N+]=[N-])[C@@H]1[C@@H](NC1=O)CBr | C4H5BrN4O
